US06586434B2
Preparation of 2-(((4-methylphenyl)sulfonyl)methyl)hexanal
To a stirred solution of 4-toluenesulfinate sodium salt (10.10 g, 56.68 mmol) in 35 mL of acetic acid at 50° C., is added 2-butylacrolein (10.6 mL, 79.66 mmol) slowly. The reaction mixture is kept at 50° C. for 3 hours. After cooling to room temperature, the mixture is diluted with 50 mL of water and extracted with ethyl acetate (2×25 mL). The combined extract is washed with saturated NaHCO3, water, brine, and dried with MgSO4. After removing solvents, the product is obtained as a yellow liquid in 75% yield.

reactant | 4-toluenesulfinate sodium salt | 56.68 mmol, 10.10 g | [Na+].C1(=CC=C(C=C1)S(=O)[O-])C
reactant | 2-butylacrolein | 79.66 mmol, 10.6 mL | C(CCC)C(C=O)=C | C7H12O
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 2-(((4-methylphenyl)sulfonyl)methyl)hexanal | 75% yield | CC1=CC=C(C=C1)S(=O)(=O)CC(C=O)CCCC | C14H20O3S
